US07378417B2
5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.22) and 3-methanesulfonyl-phenylamine according to general procedure II. Pale-yellow solid. MS (ISP) 427.4 [(M+H)+]; mp 258-260° C.

reactant | 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C=C1)N=CC2C(=O)O | C13H8ClN3O2
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
product | 5-(4-Chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2)C2=CC=C(C=C2)Cl | C20H15ClN4O3S
